US04209625
A mixture of 0.82 g of 1-(2-fluorophenyl)-1'-methylspiro-[indoline-3,4'-piperidine], free base of Example 10, 0.92 g of cyanogen bromide and 1.0 g of potassium carbonate in 24 ml of methylene dichloride is stirred at ambient temperature for 5 hours and then an additional 0.20 g of cyanogen bromide is added. Stirring is continued for 16 hours before filtering the mixture. The filtrate is boiled with methyl alcohol and the hot solution is evaporated to dryness leaving a brown foam. This product is purified by passing through a silica gel column, ether methylene chloride (1:1) mixture eluant, to provide a tan solid. The solid is recrystallized from an acetone-hexane mixture to provide white needles (slight tan tint), mp 131°-132° C. of 1'-cyano-1-(2-fluorophenyl)spiro[indoline-3,4'-piperidine].

reactant | 1-(2-fluorophenyl)-1'-methylspiro-[indoline-3,4'-piperidine] | 0.82 g | FC1=C(C=CC=C1)N1CC2(CCN(CC2)C)C2=CC=CC=C12 | C19H21FN2
reactant | cyanogen bromide | 0.92 g | N#CBr | CBrN
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyanogen bromide | 0.20 g | N#CBr | CBrN
solvent | methylene dichloride | 24 ml | C(Cl)Cl | CH2Cl2
product | 1'-cyano-1-(2-fluorophenyl)spiro[indoline-3,4'-piperidine] | C(#N)N1CCC2(CC1)CN(C1=CC=CC=C12)C1=C(C=CC=C1)F | C19H18FN3
